US06667342B1
2-Fluoroaniline (40 g, 0.36 mol) was added dropwise to a stirred solution of concentrated sulphuric acid (60 ml) and the mixture heated to 190° C. for 15 h. The reaction mixture was then cooled to room temperature and poured slowly onto a stirred solution of ice-water. After stirring for 15 mins the mixture was filtered to yield a solid, 2-fluoro-4-sulphoaniline (41 g). NMR: 7.05 (t, 1H), 7.20-7.30 (m, 2H), 8.1 (br s, 3H); MS: 190 (M−H)−. The 2-fluoro-4-sulphoaniline (41 g) was dissolved in acetic anhydride (70 ml) and stirred in an ice bath. Triethylamine (22 g, 0.22 mol) was added very slowly with vigorous stirring (and concomittant release of heat). The reaction mixture was left to stir for 14 h, at which point a solid formed; this was filtered to yield the title compound (39 g, 0.12 mol). MS: 232.

reactant | 2-Fluoroaniline | 0.36 mol, 40 g | FC1=C(N)C=CC=C1 | C6H6FN
reactant | sulphuric acid | 60 ml | S(O)(O)(=O)=O | H2O4S
product | 2-fluoro-4-sulphoaniline | 41 g | FC1=C(N)C=CC(=C1)S(=O)(=O)O | C6H6FNO3S
